US05081121
3-Acetoxy-4-methoxybenzoic acid (5.0 g) was dissolved in the mixture of acetone (95 ml) and water (5 ml). To this solution were added ethyl chlorocarbonate (3.4 g) and triethylamine (2.9 g) under ice-cooling, and the mixture stirred for 0.5 hour. To this mixture was further added a solution of sodium azide (2.3 g) in water (10 ml), and the resulting mixture was further stirred at 0° for 1 hour, poured into ice-water, and extracted with ether. The extract was washed with saturated saline and dried over sodium sulfate, and the solvent was distilled off under reduced pressure to obtain a crude acyl azide. The product, without purification, was dissolved in toluene (50 ml), and the solution was heated under reflux for 1 hour. The solvent was distilled off under reduced pressure. The crude isocyanate was dissolved in methanol (100 ml), and the mixture was heated under reflux for 1 hour. After the mixture was left to cool to room temperature, potassium carbonate (5.0 g) was added. The mixture was stirred at room temperature for 1 hour, and then water was added to the mixture. It was acidified with 10% hydrochloric acid and extraction with chloroform was conducted. The extract was washed with saturated saline and dried over sodium sulfate, and the solvent was distilled off under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (Wako Gel C-200, 100 g). Elution with chloroform gave N-methoxycarbonyl-3-hydroxy-4-methoxyaniline (4.1 g).

reactant | 3-Acetoxy-4-methoxybenzoic acid | 5.0 g | C(C)(=O)OC=1C=C(C(=O)O)C=CC1OC | C10H10O5
reactant | ethyl chlorocarbonate | 3.4 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | triethylamine | 2.9 g | C(C)N(CC)CC | C6H15N
reactant | sodium azide | 2.3 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 95 ml | CC(=O)C | C3H6O
solvent | water | 5 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | N-methoxycarbonyl-3-hydroxy-4-methoxyaniline | 4.1 g | COC(=O)NC1=CC(=C(C=C1)OC)O | C9H11NO4
